.subckt lm393_ab  in- in+  VCC VSS OUT
Q1 VSS in- 1 0 Pv
Q2 VSS in+ 2 0 Pv
Q3 4 1 3 0 Ph
Q4 5 2 3 0 Ph
Q5 5 4 VSS 0 N1 0.1
Q6 4 4 VSS 0 N1 0.1
Q8 OUT 7 VSS 0 N1
I3 VCC 7 TBL(0 0 0.4 100u 100V 110u)
I5 VCC P001 TBL(0 0 0.4 3.5u 100V 3.6u)
I6 VCC N001 TBL(0 0 0.4 3.5u 100V 3.6u)
D2 P001 1 Di
Q7 7 5 VSS 0 N1 0.1
D1 N001 2 Di
D3 VSS OUT Di
D4 in- 1 Di
D5 in+ 2 Di
I1 VCC 3 TBL(0 0 0.4 100u 100V 110u)
C1 1 VSS 0.1p
C2 2 VSS 0.1p
C3 3 VCC 0.05p
C4 4 VSS 0.05p
C5 5 VSS 0.05p
C6 6 VCC 0.05p
C7 7 VSS 2p
*
*Cout out VSS 1p
Cin- in- Vss 1.p
Cin+ in+ Vss 1.p
.MODEL N1 NPN IS=1e-16 BF=500  TF=.5n cjs=2p rb=500
+TR=50NS CJE=0.3PF CJC=0.3PF VAF=100  Br=10 ikf=20m )
.MODEL Pv PNP IS=1e-17 BF=500 RB=200 TF=1NS
+ TR=200NS CJE=100f CJC=.1PF VAF=50 br=5
.MODEL Ph LPNP IS=1e-17 BF=100 RB=300 TF=3NS br=10
+ TR=200NS CJE=100f CJC=100F VAF=50 ikf=1m  cjs=2p
.model di d Vfwd=0.6 ron=10
.ends lm393_ab
