* Copyright (c) 1998-2021 Analog Devices, Inc.  All rights reserved.
*
.subckt MUSES8920_AB 1 2 3 4 5
Cdif 1 2 1p rser=100 noiseless
I 3 4 9m Load
S1 5 3 N002 5 Q
S2 4 5 5 N002 Q
A1 2 1 0 0 0 0 N004 0 OTA G={Avol/Rout} ref={Vos} Iout={slew*Cout} Cout={Cout} en={en} enk={enk} in={in} ink={ink} Vhigh=1e308 Vlow=-1e308
C3 5 4 1p
C4 3 5 1p
R3 3 2 {2*Rin} noiseless
R4 3 1 {2*Rin} noiseless
R5 1 4 {2*Rin} noiseless
R6 2 4 {2*Rin} noiseless
G2 0 N004 4 N004 table(0 0 10 {2*slew*Cout})
G3 N004 0 N004 3 table(0 0 10 {2*slew*Cout})
R9 3 N004 {2*Rout} noiseless
R10 N004 4 {2*Rout} noiseless
G5 0 N005 N004 0 {2/Rz}
C2 N005 0 {.768*Cd}
L1 N005 N006 41.2u
R12 N005 0 {Rz} Noiseless
R13 N002 0 {Rz} Noiseless
L2 N006 N007 23.8u
L3 N007 N002 11.04u
C5 N006 0 {.294*Cd}
C6 N007 0 {.178*Cd}
C7 N002 0 {.0375*Cd}
.param Rout=100Meg
.param Cout={Avol/GBW/2/pi/Rout}
.param delay= (90-MIN(phimargin,89))/360/GBW
.param Rz=sqrt (100u/Cd)
.param Cd=delay*delay/100u
.model Q SW(Ron=22 Roff=10Meg Vt=0 Vh=-.1 Vser={Rail} ilimit={Ilimit} noiseless)
.param Avol=4.45Meg GBW=10.1Meg Slew=25.1Meg rail=1 Vos=-0.8mV ilimit=100m
.param en=8n enk=145 in=0 ink=0 phimargin=69 Rin=3t
.ends